US08314107B2
A mixture of tert-butyl 4-(7-(1-(4-(trifluoromethyl)phenyl)piperidin-4-yloxy)imidazo[1,2-a]pyridine-2-carboxamido)piperidine-1-carboxylate (0.13 g, 0.22 mmol) and 4N hydrochloric acid in dioxane (2 mL) was stirred at room temperature for 1 h. The reaction mixture was concentrated and washed with diethyl ether (2×3 mL) and then dried under reduced pressure to afford N-(piperidin-4-yl)-7-(1-(4-(trifluoromethyl)phenyl)piperidin-4-yloxy)imidazo[1,2-a]pyridine-2-carboxamide dihydrochloride salt as a brown solid (0.13 g, 98%). 1H NMR (CD3OD, 300 MHz) δ 8.72 (m, 1H), 8.56 (m, 1H), 7.64 (m, 2H), 7.45 (m, 2H), 7.31 (m, 1H), 7.26 (m, 1H), 4.97 (m, 1H), 3.64 (m, 5H), 3.01 (m, 2H), 2.14 (m, 10H) ppm; MS (ES) 488.1 (M+1).

reactant | tert-butyl 4-(7-(1-(4-(trifluoromethyl)phenyl)piperidin-4-yloxy)imidazo[1,2-a]pyridine-2-carboxamido)piperidine-1-carboxylate | 0.22 mmol, 0.13 g | FC(C1=CC=C(C=C1)N1CCC(CC1)OC1=CC=2N(C=C1)C=C(N2)C(=O)NC2CCN(CC2)C(=O)OC(C)(C)C)(F)F | C30H36F3N5O4
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | N-(piperidin-4-yl)-7-(1-(4-(trifluoromethyl)phenyl)piperidin-4-yloxy)imidazo[1,2-a]pyridine-2-carboxamide dihydrochloride salt | 0.13 g, 98% | Cl.Cl.N1CCC(CC1)NC(=O)C=1N=C2N(C=CC(=C2)OC2CCN(CC2)C2=CC=C(C=C2)C(F)(F)F)C1 | InChI=1S/C25H28F3N5O2.2ClH/c26-25(27,28)17-1-3-19(4-2-17)32-12-7-20(8-13-32)35-21-9-14-33-16-22(31-23(33)15-21)24(34)30-18-5-10-29-11-6-18;;/h1-4,9,14-16,18,20,29H,5-8,10-13H2,(H,30,34);2*1H
